US08541588B2
4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-3-cyano-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of the N-{1-tert-butyl-4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)phenyl]-1H-pyrazol-5-yl}-2,2,2-trifluoroacetamide (Preparation 419, 157 mg, 0.20 mmol) in methanol (15 ml) was added hydrogen chloride (4 M in 1,4-dioxane, 3 ml). The resulting yellow solution was stirred and heated at 60° C. for 48 hours. The solvent removed in vacuo to afford a pale yellow residue. The material was purified by column chromatography (80 g silica gel column) eluting with methanol:dichloromethane (5:95, by volume) to afford the title compound as a yellow oily solid, 56 mg, 59% yield.

reactant | N-{1-tert-butyl-4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)phenyl]-1H-pyrazol-5-yl}-2,2,2-trifluoroacetamide | 0.20 mmol, 157 mg | C(C)(C)(C)N1N=CC(=C1NC(C(F)(F)F)=O)C1=C(C=CC(=C1)Cl)OC1=C(C=C(C=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C#N | C33H29ClF3N7O6S2
reactant | hydrogen chloride | 4 M, 3 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-3-cyano-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 59% yield | NC1=C(C=NN1)C1=C(OC2=C(C=C(C=C2)S(=O)(=O)NC2=NC=NS2)C#N)C=CC(=C1)Cl | C18H12ClN7O3S2
